US04598077
Catalytic reduction of a solution of 9 g of 4-[2-(4-phthalimidomethylphenyl)ethenyl]benzonitrile in 300 ml of chloroform was carried out with 2 g of a 5% palladium-carbon as catalyst. The reaction mixture was filtered from the spent catalyst and the filtrate was concentrated under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to obtain 8.5 g of 4-[2-(4-phthalimidomethylphenyl)ethyl]benzonitrile; m.p. 194°-197° C.

reactant | 4-[2-(4-phthalimidomethylphenyl)ethenyl]benzonitrile | 9 g | C1(C=2C(C(N1CC1=CC=C(C=C1)C=CC1=CC=C(C#N)C=C1)=O)=CC=CC2)=O | C24H16N2O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium-carbon | [C].[Pd]
product | 4-[2-(4-phthalimidomethylphenyl)ethyl]benzonitrile | 8.5 g | C1(C=2C(C(N1CC1=CC=C(C=C1)CCC1=CC=C(C#N)C=C1)=O)=CC=CC2)=O | C24H18N2O2
